US07723378B2
To a solution of 3-(4-hydroxymethyl-2,6-dimethyl-phenyl)-propionic acid (960 mg, 4.6 mmol) in acetic acid (20 mL), MnO2 (1440 mg, 16.6 mmol) is added. The mixture is stirred at 80° C. for 4.5 h before it is filtered. The filtrate is evaporated and the crude product is purified by CC on silica gel eluting with DCM containing 8% of methanol to give 3-(4-formyl-2,6-dimethyl-phenyl)-propionic acid (800 mg) as a beige solid; LC-MS: tR=0.81 min; 1H NMR (D6-DMSO): δ 12.2 (s br, 1H), 9.86 (s, 1H), 7.52 (s, 2H), 2.93-2.85 (m, 2H), 2.38-2.30 (m, 8H).

reactant | 3-(4-hydroxymethyl-2,6-dimethyl-phenyl)-propionic acid | 4.6 mmol, 960 mg | OCC1=CC(=C(C(=C1)C)CCC(=O)O)C | C12H16O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | MnO2 | 16.6 mmol, 1440 mg | O=[Mn]=O
product | 3-(4-formyl-2,6-dimethyl-phenyl)-propionic acid | 800 mg | C(=O)C1=CC(=C(C(=C1)C)CCC(=O)O)C | C12H14O3
